2170-10-31 05:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Continued on Lasix and Milrinone and diuresed -1.3L o/n.  No changes
   made in regimen.  PT consult ordered and pt was OOB to chair x2.  He
   denies CP, reports DOE w/ getting OOB, slightly improved from prior.
   Allergies:
   Coumadin (Oral) (Warfarin Sodium)
   generalized swe
   Xanax (Oral) (Alprazolam)
   Confusion/Delir
   Morphine
   Hallucinations;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2170-10-30**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-10-31**] 05:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 60 (60 - 66) bpm
   BP: 106/37(55) {88/32(46) - 108/74(79)} mmHg
   RR: 15 (8 - 21) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Wgt (current): 86.2 kg (admission): 90.5 kg
   Height: 71 Inch
   Telemetry: 60-64 Vpaced
   Paired PVCs
   LOS I/Os is negative 7.9L
   Total In:
                                                                  1,390 mL
                                                                    233 mL
   PO:
                                                                    870 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    520 mL
                                                                    113 mL
   Blood products:
   Total out:
                                                                  2,685 mL
                                                                    640 mL
   Urine:
                                                                  2,685 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,295 mL
                                                                   -407 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ////
   Physical Examination
   GENERAL: elderly male lying in bed in NAD. Oriented x3. Mood, affect
   appropriate.
   HEENT: NCAT. Sclera anicteric. OP clear.
   NECK: Supple with JVP 11cm
   CARDIAC: RR,  no MRG
   LUNGS: decreased breath sounds at the bases b/l, CTAB otherwise
   ABDOMEN: +BS, Soft, NTND. No HSM or tenderness..
   EXTREMITIES:  lower legs have 1+ edema, b/l
   SKIN: No stasis dermatitis, ulcers.
   PULSES:  2+ throughout
   Labs / Radiology
   178 K/uL
   9.3 g/dL
   99 mg/dL
   1.8
   30 mEq/L
   4.1 mEq/L
   55 mg/dL
   98
   135 mEq/L
   27.3 %
   4.3
        [image002.jpg]
   Digoxin 1.4
                             [**2170-10-27**]  05:21 AM
                             [**2170-10-27**]  05:31 PM
                             [**2170-10-28**]  03:35 AM
                             [**2170-10-28**]  11:12 PM
                             [**2170-10-29**]  06:39 AM
                             [**2170-10-30**]  04:59 AM
                             [**2170-10-30**]  06:05 PM
   WBC
   4.8
   5.2
   4.6
   4.4
   Hct
   28.9
   27.4
   28.9
   28.1
   Plt
   153
   168
   188
   178
   Cr
   1.4
   1.7
   1.7
   1.7
   1.7
   2.0
   2.0
   Glucose
   189
   149
   204
   84
   99
   Other labs: Mg++:2.1 mg/dL
   Assessment and Plan
   [**Age over 90 **] yo M with CAD, CHF (EF 25-30%), afib, s/p ICD pacer who presents
   with LE edema after multiple prior admission, transferred to CCU after
   becoming hypotensive and having confusion with IV Lasix boluses.  He
   received Milrinone and Lasix gtts with excellent diuresis.
   #. CHF with both systolic and diastolic failure, EF 20%, poor response
   to both preload and afterload changes.  Did not initially respond to iv
   lasix and then dropped bp to lasix drip.  Now on Milrinone, increased
   overnight to 0.625 mcg/kg/min completed at 5am today.  On lasix gtt.
   Patient was 1.7 L negative o/n and 7.9 L negative for LOS.  On digoxin.
   - daily i&os, low na diet
   - daily weight, 1200 fluid restriction
   - Will stop his milrinone and lasix gtt and start Torsemide 40mg [**Hospital1 **].
   - Continue digoxin 0.0625mg every other day for now
   - Continue Toprol XL 25 PO qday, holding Lisinopril 2.5mg PO qday due
   to elevated Cr, will restart once Cr improvement is noted to be
   persistent (baseline 1.3-1.4, this may be higher in state closer to
   euvolemia in this pt)
   #. Acute renal failure:  The patient
s improved to 1.8.  Initial rise
   likely secondary to intravascular volume depletion from his diuresis.
   His baseline is in the 1.7-1.8 more recently, but had been 1.3-1.4
   within the last year.  Baseline at euvolemia may be more in 1.7-1.8
   range.
   - Will stop aggressive diuresis as above, start torsemide and continue
   to monitor.
   #. Coronary Artery Disease: The patient has a h/o CAD. He is not
   currently having any symptoms of chest pain.
   - Continue home dose of Metoprolol, NTG, Simvastatin, aspirin
   #. Gout: Patient has a history of gout. He currently takes Allopurinol
   300 mg daily at home. Given the patient's renal function, this dose was
   changed to Allopurinol 100 mg daily.
   - Continue lower dose of Allopurinol given ARF, restart once Cr
   stabilized.
   #. GERD: Patient
s home dose of ranitidine was decreased due to his
   decreased renal function to 150 mg daily, can be resumed at home dosing
   tomorrow if Cr stable.
   #. FEN: Heart-healthy, low sodium, 1200 cc fluid restriction diet.
   Replete K > 4.0 and Mg > 2.0
   #. Access: PIV
   # Functional status:  Pt. w/ difficulties getting OOB alone.  At home
   reports able to ambulate w/ walker and assistance.
   - OOB to chair x3 today, attempt ambulation w/ assist.
   .
   #. PPx:
   - DVT: Heparin SQ
   - GI: Colace and Senna daily
   - Pain: Tylenol prn
   .
   #. Code: DNR/DNI (confirmed with patient and health care proxy)
   .
   #. Dispo: Patient can be called out to the floor today.